US08686024B2
Synthesis of 1-benzylindolin-5-yl 3,4-dimethoxyphenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (30.0 mg, 0.133 mmol) using the same procedure employed for Example 2 (2), but with 3,4-dimethoxyphenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (26.9 mg, 50%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.133 mmol, 30.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 3,4-dimethoxyphenylisocyanate | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
product | 1-benzylindolin-5-yl 3,4-dimethoxyphenylcarbamate | COC=1C=C(C=CC1OC)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C24H24N2O4
